US09446059B2
A solution of (S)-benzyl 3-(3-(benzyloxy)-4-hydroxyphenyl)-2-(((benzyloxy)carbonyl)amino)propanoate (102 g, 200 mmol) in ACN (510 ml) was stirred at room temperature and tetrabenzyl pyrophosphate (118 g, 220 mmol) was added. Cooled in an ice bath and added DBU (45.2 ml, 300 mmol) over 10 min, keeping the temp between 20 and 25° C. After 30 min, LC-MS showed complete reaction. Added MTBE (1.0 L) and water (510 mL), separated layers (very little aq loss by LCMS), and washed the org layer with brine (3×200 mL). Dried (Na2SO4), conc, and FCC (split in two portions; each purified on an 800 g column with 25-75% MTBE/heptanes gradient elution, then combined) gave (S)-benzyl 3-(3-(benzyloxy)-4-((bis(benzyloxy)phosphoryl)oxy)phenyl)-2-(((benzyloxy)carbonyl)amino)propanoate (132 g, 171 mmol, 86% yield) as an amber oil. 1H NMR (400 MHz, DMSO-d6) δ 7.87 (d, J=8.1 Hz, 1H), 7.43-7.17 (m, 26H), 7.07 (dd, J=8.2, 1.3 Hz, 1H), 6.79 (dd, J=8.3, 1.9 Hz, 1H), 5.14-4.91 (m, 10H), 4.38 (ddd, J=10.0, 8.0, 5.2 Hz, 1H), 3.05 (dd, J=13.8, 5.2 Hz, 1H), 2.88 (dd, J=13.8, 10.1 Hz, 1H). MS (ESI) m/z 789 [M+NH4]+.

reactant | (S)-benzyl 3-(3-(benzyloxy)-4-hydroxyphenyl)-2-(((benzyloxy)carbonyl)amino)propanoate | 200 mmol, 102 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1O)C[C@@H](C(=O)OCC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1 | C31H29NO6
reactant | tetrabenzyl pyrophosphate | 220 mmol, 118 g | O(P(OCC1=CC=CC=C1)(=O)OP(=O)(OCC1=CC=CC=C1)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C28H28O7P2
reactant | DBU | 300 mmol, 45.2 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | ACN | 510 ml | C(C)#N | C2H3N
product | (S)-benzyl 3-(3-(benzyloxy)-4-((bis(benzyloxy)phosphoryl)oxy)phenyl)-2-(((benzyloxy)carbonyl)amino)propanoate | 171 mmol, 132 g, 86% yield | C(C1=CC=CC=C1)OC=1C=C(C=CC1OP(=O)(OCC1=CC=CC=C1)OCC1=CC=CC=C1)C[C@@H](C(=O)OCC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1 | C45H42NO9P
